US04871737
5-Methyl-3-[[2-(1-piperidinyl)ethyl]amino]-1H-pyrazole-4-carboxylic acid ethyl ester, hydrochloride [1:2].
A stirred solution of 6 g (0.03 mole) of 4-(2-piperidinoethyl)-3-thiosemicarbazide in 30 mL of 2N ethanolic hydrogen chloride was diluted to 60 mL with absolute ethanol, treated with 4.9 g (0.03 mole) of ethyl 2-chloroacetoacetate, stirred at ambient temperature for 3 hr, and heated at reflux for 2 hr. The reaction mixture was filtered hot to remove amorphous sulfur and the filtrate concentrated to an orange oil. Trituration with refluxing 2-propyl ether and cooling gave a plastic mass with crystals. The 2-propyl ether was decanted and the residual material recrystallized from 2-propyl alcohol/2-propyl ether to give 8 g of crude product. A second recrystallization from 2-propyl alcohol/2-propyl ether gave 5.3 g of beige crystalline product, mp 198°-200° C. as the dihydrochloride salt.

reactant | 4-(2-piperidinoethyl)-3-thiosemicarbazide | 0.03 mole, 6 g | N1(CCCCC1)CCNC(NN)=S | C8H18N4S
reactant | ethyl 2-chloroacetoacetate | 0.03 mole, 4.9 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
solvent | hydrogen chloride | 2N, 30 mL | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 5-Methyl-3-[[2-(1-piperidinyl)ethyl]amino]-1H-pyrazole-4-carboxylic acid ethyl ester, hydrochloride | 5.3 g | Cl.C(C)OC(=O)C=1C(=NNC1C)NCCN1CCCCC1 | InChI=1S/C14H24N4O2.ClH/c1-3-20-14(19)12-11(2)16-17-13(12)15-7-10-18-8-5-4-6-9-18;/h3-10H2,1-2H3,(H2,15,16,17);1H
